US05852017
f) 1-Cyclohexyl-7-nitro-6-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
3.0 g (99 mmol) of 6-amino-1-cyclohexyl-7-nitro-2,3(1H,4H)-quinoxalinedione and 1.3 g (99 mmol) of 2,5-dimethoxytetrahydrofuran were refluxed in 70 ml of acetic acid for 30 minutes. The mixture was then diluted with water, and the precipitate was filtered off with suction to yield 2.4 g (69%) of the product. Melting point 197° C.

reactant | 6-amino-1-cyclohexyl-7-nitro-2,3(1H,4H)-quinoxalinedione | 99 mmol, 3.0 g | NC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])C1CCCCC1)=O)=O | C14H16N4O4
reactant | 2,5-dimethoxytetrahydrofuran | 99 mmol, 1.3 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-Cyclohexyl-7-nitro-6-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | 2.4 g, 69% | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])N1C=CC=C1)=O)=O | C18H18N4O4
